US04968790
2-Deoxy-2,2-difluoro-4,5-bis-O-(phenylmethyl)-D-arabino-3-heptulofuranosonic acid, ethyl ester
To a stirred solution of 1.83 g of 2-deoxy-2,2-difluoro-4,5-bis-O-(phenylmethyl)-D-arabino-3-heptulofuranosonic acid, ethyl ester diacetate in 5.1 ml of ethanol was added 3.4 ml of 1.5M sodium ethoxide in ethanol at 25° C. After 1.5 hours, the mixture was treated with 0.61 ml of glacial acetic acid and partitioned with ether and water. The organic layer was washed with water, sodium bicarbonate solution, and brine, dried and concentrated. The residue was subjected to column chromatography on silica gel to give an oil; CMR δ 100.1 (triplet, J=29.6 Hz, anomeric carbon)

reactant | 2-deoxy-2,2-difluoro-4,5-bis-O-(phenylmethyl)-D-arabino-3-heptulofuranosonic acid, ethyl ester diacetate | 1.83 g | C(C)(=O)OC1(C(C(=O)OCC)(F)F)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COC(C)=O | C27H30F2O9
reactant | sodium ethoxide | 1.5M, 3.4 ml | [O-]CC.[Na+]
reactant | acetic acid | 0.61 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 5.1 ml | C(C)O | C2H6O
product | 2-Deoxy-2,2-difluoro-4,5-bis-O-(phenylmethyl)-D-arabino-3-heptulofuranosonic acid, ethyl ester | FC(C(=O)OCC)(C1(O)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)CO)F | C23H26F2O7
